US05026856
7-(4-amino-2-isoindolinyl)-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid
133 mg of 1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid, 81 mg of 4-aminoisoindoline, 182 mg of DBU, and 1.5 ml of anhydrous DMF were processed in the same manner as in Example 2 to produce 97 mg of the target compound.

reactant | 1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 133 mg | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)F)F)=O)C(=O)O | C13H9F2NO3
reactant | 4-aminoisoindoline | 81 mg | NC1=C2CNCC2=CC=C1 | C8H10N2
reactant | DBU | 182 mg | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
product | 7-(4-amino-2-isoindolinyl)-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 97 mg | NC1=C2CN(CC2=CC=C1)C1=C(C=C2C(C(=CN(C2=C1)C1CC1)C(=O)O)=O)F | C21H18FN3O3
